US04032571
A process for the manufacture of 2-amino-3,5-dinitrobenzamide which comprises nitrating at -20° C. to 80° C. isatoic anhydride dissolved in an inert organic solvent with an acid mixture consisting of 85-100% strength nitric acid and oleum, said acid mixture containing 0.5 to 20 moles of sulfur trioxide per mole of nitric acid, to produce 3,5-dinitroisatoic anhydride, allowing the reaction mixture to separate into an organic phase and an acid phase containing the 3,5-dinitroisatoic anhydride, adding 20-30% strength aqueous ammonia to the resultant acid phase in an amount of 9 to 25 moles of ammonia per mol of isatoic anhydride, and reacting the ammonia and the acid phase to produce a high yield of 2-amino-3,5-dinitrobenzamide.

reactant | 2-amino-3,5-dinitrobenzamide | NC1=C(C(=O)N)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H6N4O5
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
reactant | sulfur trioxide | 0.5 to 20 moles | S(=O)(=O)=O | O3S
product | 3,5-dinitroisatoic anhydride | [N+](=O)([O-])C1=C2C(C(=O)OC(N2)=O)=CC(=C1)[N+](=O)[O-] | C8H3N3O7
